US08133995B2
Step 3: Preparation of 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile
To a solution of EtOH (50 mL) was added 1-amino-1H-pyrrole-2,4-dicarbonitrile (1.00 g, 7.57 mmol) followed by formamidine acetate (9.46 g, 90.8 mmol) and potassium carbonate (14.6 g, 106.0 mmol). The solution was heated to 80° C. for 2 h. Upon cooling to rt, the reaction mixture was diluted with EtOAc transferred to a separatory funnel and washed with water. The organic layer was collected, dried (MgSO4), filtered, and concentrated to dryness. The crude material was then triturated with EtOH-water. The solid was collected, washed with water, and dried under vacuum to afford 0.91 g of the above compound as a yellow-orange solid (5.70 mmol, yield 75%). 1H-NMR (DMSO-d6) δ 8.37 (d, J=1.8 Hz, 1H), 8.19 (d, J=17.4, 2H), 7.93 (s, 1H), 7.27 (d, J=1.8 Hz, 1H); LCMS RT=1.14 min.

reactant | EtOH | 50 mL | CCO | C2H6O
reactant | 1-amino-1H-pyrrole-2,4-dicarbonitrile | 7.57 mmol, 1.00 g | NN1C(=CC(=C1)C#N)C#N | C6H4N4
reactant | formamidine acetate | 90.8 mmol, 9.46 g | C(C)(=O)O.C(=N)N
reactant | potassium carbonate | 106.0 mmol, 14.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-aminopyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile | 5.70 mmol, 0.91 g, yield 75% | NC1=NC=NN2C1=CC(=C2)C#N | C7H5N5
